2175-10-09 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2175-10-9**] 01:00 AM
   - Pt reacted to test dose of calcitonin
   - pamidronate started
   - labs throughout day show an increasing Calcium yesterday
   - tried prednisone, per Endocrine, in case it is Vit D dependent
   hypercalcemia.
   - IVFs at 300-500 cc/hr; K constantly getting repleted, very low.
   - no blood transfusions b/c jehovah's witness
   - Bone scan ordered, but won't happen until weekday.
   - itchiness w morphine
   - highly anxious
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2175-10-9**] 12:52 AM
   Furosemide (Lasix) - [**2175-10-9**] 01:10 AM
   Morphine Sulfate - [**2175-10-9**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-10-9**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.8
C (96.5
   HR: 80 (78 - 91) bpm
   BP: 160/84(108) {144/67(83) - 191/88(108)} mmHg
   RR: 19 (13 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                 14,370 mL
                                                                  2,073 mL
   PO:
                                                                    270 mL
             TF:
   IVF:
                                                                  9,100 mL
                                                                  2,073 mL
   Blood products:
   Total out:
                                                                  5,715 mL
                                                                  3,310 mL
   Urine:
                                                                  5,715 mL
                                                                  3,310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,655 mL
                                                                 -1,237 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   General: Alert, oriented, emotionally distressed
   HEENT: Sclera anicteric, dry mucus membranes, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Patient is breathing comfortably.  Inspiratory crackles
   bilaterally at the bases but decreased sounds at left base.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  Linear well-healed scar in her LLQ.  moderately distended
   with hyperactive bowel sounds.  Nontender abdomen
   GU: has foley
   Ext: warm, well perfused, 2+ pulses, has increased nonpitting LE and
   upper extremity edema.  Left mid medial thigh has a large area where a
   baseball-sized mass of tissue was removed with well-appearing scar
   tissue over it.
   Back: No spinal tenderness.  No pain at this time to palpation focally
   over her right iliac crest.  No masses or abnormalities palpated.
   Labs / Radiology
   239 K/uL
   10.0 g/dL
   106 mg/dL
   2.2 mg/dL
   24 mEq/L
   4.0 mEq/L
   38 mg/dL
   101 mEq/L
   133 mEq/L
   29.2 %
   12.2 K/uL
        [image002.jpg]
                            [**2175-10-8**]  07:40 AM
                            [**2175-10-8**]  01:11 PM
                            [**2175-10-8**]  05:57 PM
                            [**2175-10-9**]  12:07 AM
                            [**2175-10-9**]  05:05 AM
   WBC
   10.4
   12.2
   Hct
   29.4
   29.2
   Plt
   229
   239
   Cr
   2.7
   2.7
   2.5
   2.4
   2.2
   Glucose
   92
   87
   84
   100
   106
   Other labs: ALT / AST:26/49, Alk Phos / T Bili:139/0.4, Amylase /
   Lipase:43/153, Albumin:2.9 g/dL, LDH:1283 IU/L, Ca++:16.0 mg/dL,
   Mg++:1.6 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   44 yo female with metaststic squamous cell carcinoma of the left mid
   medial thigh s/p excision in [**7-6**] admitted with hypercalcemia of 19.8.
   # Hypercalcemia:
   Ca decreased to 15 yesterday from 19 on admission that morning, but is
   increasing again to 16 this AM.  Squamous cell carcinomas of the lung
   and head and neck are known to produce PTH-rP so her SSC of the skin
   could possibly produce this.  This could also be secondary to bony mets
   ; she does have elevated Alk Phos.  Another possibility on differential
   is sarcoidosis because of increased peri-hilar densities.  PTH is
   normal level, but should be lower with such high calcium
   - IVF hydration continued.  Urine output 400cc/hr.  will start Normal
   Saline today for a few liters, then return to LR.  Once she appears
   euvolemic, will aim for UOP of 100-150 cc/hr.
   - lasix [**Hospital1 **] to lessen overall edema and fluid in lungs, possibly to
   help w Ca as well
   - Avoid calcitonin bc of allergic reaction, but ask endo about
   premedicating for calcitonin
   - f/u Endocrine Recs
   - Continue pamidronate
   - f/u  PTHrP  ,  Vit D
   - Bone Scan on weekday
   - Bowel regimen for constipation and zofran prn for nausea.
   - consider Hemodialysis if Ca cannot be decreased
   - f/u w Renal recs
   .
   # Perihilar densities:
   [**Month (only) 8**] be malignant spread to lymph nodes or sarcoidosis.
   - Chest CT today to evaluate perihilar areas
   - ACE level
   - f/u [**1-22**]-OH and 25-OH Vit D levels
   - speak w Dr. [**Last Name (STitle) **] who knows pt from previously
   .
   # Acute renal failure:
   Cr improved to 2.2 today from 3.2 (her baseline is 0.6-0.7).  [**Month (only) 8**] still
   be prerenal.  Abdominal US at [**Hospital1 2840**] showed no evidence of
   hydronephrosis.  Part of her ARF could also be due to the direct renal
   vasoconstriction effect of hypercalcemia on the kidney causing a fall
   in the GFR.
   - continued volume repletion and management of hypercalcemia
   - Trend Cr
   - Renally dose medications and avoid nephrotoxins.
   # Right posterior hip pain:
   The patient has focal iliac crest pain on exam, Xrays have not been
   helpful.  On exam she has no evidence of weakness or neuro findings.
   [**Month (only) 8**] be secondary to metastases or pain for positional changes. Pt also
   has left knee pain.
   - need Bone Scan this week to evaluate for metastatic/malignant lesions
   - Consider pelvis CT to evaluate the soft tissue around the hip for
   source of the pain.
   - Morphine for pain control
 consider switching to a different PO med,
   though pt feels that she had recently been having more difficulty
   swallowing recently
   # Elevated LFTs/lipase:
   The patient has a mildly elevated AST, alk phos, LDH, and lipase.
   Pancreatitis is a uncommon side effect of hypercalcemia so her elevated
   lipase could be secondary to pancreatitis.  Improving slowly
   - Trend LFTs/lipase
   - advance diet slowly
   # Chronic iron-deficiency anemia:
   The patient's Hct is 29 (from 34.2) after lots of fluids.  She is a
   Jehovah's Witness and therefore would not want tranfusion of any type
   of blood products.
   - Continue to trend.
   - Guaiac stools given history of black stool.
   # Metastastic squamous cell carcinoma:  The patient is s/p excision in
   [**7-6**].  She had discussed radiation treatment, but had opted against
   it.  Her current presenatation of hypercalcemia is concerning for
   reoccurance of her squamous cell carcinoma.
   - Contact Dr. [**Last Name (STitle) **] about his perspective regarding her cancer status
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2175-10-8**] 08:36 PM
   18 Gauge - [**2175-10-8**] 08:37 PM
   Prophylaxis:
   DVT:  boots, subq heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: callout possibly to Oncology floor, or keep in ICU until
   tomorrow
   ------ Protected Section ------
   MICU Attending Addendum
   On this day I examined the patient, reviewed her hospital course, labs,
   and imaging, and I was present for the key portions of the services
   provided.  I have also reviewed Dr [**Last Name (STitle) 9313**]
s note and agree with her
   findings and plan of care.  The patient remains hypercalcemic to Ca=16,
   and Ringers has been switched to NS to eliminate all Ca from IV
   We
ll continue to give vigorous IV NS and use lasix to avoid further
   edema and third spacing elsewhere.   Her CXR looks quite suspicious for
   sarcoid with bilateral and mediastinal adenopathy, and this might also
   explain her hypercalcemia.  We will further evaluate this with chest CT
   and serum ACE, but at some point she may come to node biopsy for
   definitive dx and rx.  Meanwhile her hip pain will be further evaluated
   with pelvic CT.  However she would seem to merit a reevaluation of the
   status of her squamous cell skin cancer (?PET-CT?), and we will contact
   Drs [**Last Name (STitle) **] and [**Name (NI) **], [**Name5 (PTitle) **] of whom know her well for this problem.  The
   patient is stable enough to continue her IV fluids on the floor and
   we
ll call her out to an onc floor.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 712**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 711**] [**Last Name (NamePattern1) 712**], MD
   on:[**2175-10-9**] 14:19 ------

2175-10-10 06:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -CT chest and pelvis: showed innumerable lung nodules, large hilar
   masses that are indistinct from the mediastinum, moderate pleural
   effusions, lytic lesions in bilateral iliac bones, left inguinal LAD
   with enlarged lymph nodes that have colesced into one mass with
   surrounding fat stranding
   -Dr. [**Last Name (STitle) **] aware, will come by post clinic
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2175-10-9**] 03:36 PM
   Furosemide (Lasix) - [**2175-10-9**] 07:20 PM
   Morphine Sulfate - [**2175-10-10**] 03:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-10-10**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.7
C (96.3
   HR: 94 (78 - 103) bpm
   BP: 196/102(117) {166/68(103) - 196/102(117)} mmHg
   RR: 22 (17 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.6 kg (admission): 79.1 kg
             Total In:
                                                                  6,933 mL
                                                                  2,684 mL
   PO:
                                                                    720 mL
                                                                    500 mL
   TF:
   IVF:
                                                                  6,213 mL
                                                                  2,184 mL
   Blood products:
   Total out:
                                                                  9,100 mL
                                                                  1,800 mL
   Urine:
                                                                  9,100 mL
                                                                  1,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,167 mL
                                                                    884 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   239 K/uL
   10.0 g/dL
   173 mg/dL
   2.2 mg/dL
   21 mEq/L
   3.7 mEq/L
   37 mg/dL
   99 mEq/L
   132 mEq/L
   29.2 %
   12.2 K/uL
        [image002.jpg]
                            [**2175-10-8**]  07:40 AM
                            [**2175-10-8**]  01:11 PM
                            [**2175-10-8**]  05:57 PM
                            [**2175-10-9**]  12:07 AM
                            [**2175-10-9**]  05:05 AM
                            [**2175-10-9**]  11:32 AM
                            [**2175-10-9**]  05:43 PM
   WBC
   10.4
   12.2
   Hct
   29.4
   29.2
   Plt
   229
   239
   Cr
   2.7
   2.7
   2.5
   2.4
   2.2
   2.4
   2.2
   Glucose
   92
   87
   84
   100
   106
   112
   173
   Other labs:
   Ca:  Mg:  Phos:
   Imaging:
   CT Pelvis (Prelim read): 1. New lytic lesions in the pelvis
   2. Subcutaneous new left lower quadrant and left inguinal nodular
   opacities, all these findings are concerning for progression of
   neoplastic disease.
   3. A small amount of free fluid in the pelvis.
   CT Chest (Prelim read):  1. Marked progression of extensive bilateral
   pulmonary nodules with large hilar masses inseparable from mediastinal
   lymphadenopathy. Overall, these hilar masses inseparable from
   mediastinal lymphadenopathy. Overall, these findings are new since [**Month (only) 1646**]
   and concerning for rapid progression of neoplastic disease in a person
   with known history of previous malignancy.
   2. New bilateral pleural effusions.
   3. Inadequately characterized hepatic hypodensities.
   4. Cholelithiasis
   Assessment and Plan
   44 yo female with metaststic squamous cell carcinoma of the left mid
   medial thigh s/p excision in [**7-6**] admitted with hypercalcemia of 19.8.
   # Hypercalcemia:
   Ca decreased to 14.1 yesterday evening, patient refused labs overnight
   and this morning nursing and IV nurse were unable to draw labs or place
   a new peripheral, put patient in for a PICC.  CT scan showed concern
   for progression of malignancy with innumerable pulmonary nodules, hilar
   masses, bony lesions in the iliac bones bilaterally and left inguinal
   enlarging LAD.  Given new CT scan findings the most likely etiology is
   recurrence of her metastatic disease.
   Squamous cell carcinomas of the lung and head and neck are known to
   produce PTH-rP so her SSC of the skin could possibly produce this.
   This could also be secondary to bony mets ; she does have elevated Alk
   Phos.  Another possibility on differential is sarcoidosis because of
   increased peri-hilar densities.  PTH is normal level, but should be
   lower with such high calcium
   - IVF hydration continued.  Urine output 400cc/hr.  will start Normal
   Saline today for a few liters, then return to LR.  Once she appears
   euvolemic, will aim for UOP of 100-150 cc/hr.
   - lasix [**Hospital1 **] to lessen overall edema and fluid in lungs, possibly to
   help w Ca as well
   - Avoid calcitonin bc of allergic reaction, but ask endo about
   premedicating for calcitonin
   - f/u Endocrine Recs
   - Continue pamidronate
   - f/u  PTHrP  ,  Vit D
   - Bone Scan on weekday
   - Bowel regimen for constipation and zofran prn for nausea.
   - consider Hemodialysis if Ca cannot be decreased
   - f/u w Renal recs
   .
   # Perihilar densities:
   [**Month (only) 8**] be malignant spread to lymph nodes or sarcoidosis.
   - Chest CT today to evaluate perihilar areas
   - ACE level
   - f/u [**1-22**]-OH and 25-OH Vit D levels
   - speak w Dr. [**Last Name (STitle) **] who knows pt from previously
   .
   # Acute renal failure:
   Cr improved to 2.2 today from 3.2 (her baseline is 0.6-0.7).  [**Month (only) 8**] still
   be prerenal.  Abdominal US at [**Hospital1 2840**] showed no evidence of
   hydronephrosis.  Part of her ARF could also be due to the direct renal
   vasoconstriction effect of hypercalcemia on the kidney causing a fall
   in the GFR.
   - continued volume repletion and management of hypercalcemia
   - Trend Cr
   - Renally dose medications and avoid nephrotoxins.
   # Right posterior hip pain:
   The patient has focal iliac crest pain on exam, Xrays have not been
   helpful.  On exam she has no evidence of weakness or neuro findings.
   [**Month (only) 8**] be secondary to metastases or pain for positional changes. Pt also
   has left knee pain.
   - need Bone Scan this week to evaluate for metastatic/malignant lesions
   - Consider pelvis CT to evaluate the soft tissue around the hip for
   source of the pain.
   - Morphine for pain control
 consider switching to a different PO med,
   though pt feels that she had recently been having more difficulty
   swallowing recently
   # Elevated LFTs/lipase:
   The patient has a mildly elevated AST, alk phos, LDH, and lipase.
   Pancreatitis is a uncommon side effect of hypercalcemia so her elevated
   lipase could be secondary to pancreatitis.  Improving slowly
   - Trend LFTs/lipase
   - advance diet slowly
   # Chronic iron-deficiency anemia:
   The patient's Hct is 29 (from 34.2) after lots of fluids.  She is a
   Jehovah's Witness and therefore would not want tranfusion of any type
   of blood products.
   - Continue to trend.
   - Guaiac stools given history of black stool.
   # Metastastic squamous cell carcinoma:  The patient is s/p excision in
   [**7-6**].  She had discussed radiation treatment, but had opted against
   it.  Her current presenatation of hypercalcemia is concerning for
   reoccurance of her squamous cell carcinoma.
   - Contact Dr. [**Last Name (STitle) **] about his perspective regarding her cancer status
   ICU Care
   Nutrition: Regular Diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2175-10-8**] 08:36 PM
   18 Gauge - [**2175-10-8**] 08:37 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Patient and Husband
   [**Name (NI) 156**] status: Full code
   Disposition: Call out to an oncology floor

2175-10-10 11:02:00 Physician Attending Progress Note
Chief Complaint: hyperca
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   44 yo F with met sq cell ca s/p prior excision presents with
   hypercalcemia
   24 Hour Events:
   lasix, IVFs with imrpovement i ca --Ringers has been switched to NS to
   eliminate all Ca from IV
   chest/  pelvic CT with inumerable lung nodules, large inguinal LAD
   picc line placed due to difficulty with blood draws
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2175-10-9**] 03:36 PM
   Morphine Sulfate - [**2175-10-10**] 03:45 AM
   Furosemide (Lasix) - [**2175-10-10**] 08:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-10-10**] 10:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.6
C (96.1
   HR: 115 (84 - 115) bpm
   BP: 196/102(117) {168/68(103) - 196/102(117)} mmHg
   RR: 23 (17 - 26) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 91.6 kg (admission): 79.1 kg
             Total In:
                                                                  6,933 mL
                                                                  4,224 mL
   PO:
                                                                    720 mL
                                                                    740 mL
   TF:
   IVF:
                                                                  6,213 mL
                                                                  3,484 mL
   Blood products:
   Total out:
                                                                  9,100 mL
                                                                  3,400 mL
   Urine:
                                                                  9,100 mL
                                                                  3,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,167 mL
                                                                    824 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   239 K/uL
   173 mg/dL
   2.2 mg/dL
   21 mEq/L
   3.7 mEq/L
   37 mg/dL
   99 mEq/L
   132 mEq/L
   29.2 %
   12.2 K/uL
        [image002.jpg]
                            [**2175-10-8**]  07:40 AM
                            [**2175-10-8**]  01:11 PM
                            [**2175-10-8**]  05:57 PM
                            [**2175-10-9**]  12:07 AM
                            [**2175-10-9**]  05:05 AM
                            [**2175-10-9**]  11:32 AM
                            [**2175-10-9**]  05:43 PM
   WBC
   10.4
   12.2
   Hct
   29.4
   29.2
   Plt
   229
   239
   Cr
   2.7
   2.7
   2.5
   2.4
   2.2
   2.4
   2.2
   Glucose
   92
   87
   84
   100
   106
   112
   173
   Other labs: ALT / AST:26/49, Alk Phos / T Bili:139/0.4, Amylase /
   Lipase:43/153, Albumin:2.9 g/dL, LDH:1283 IU/L, Ca++:14.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Imaging: cxr with l effusions, sm r eff, full pulm vessesl and hilar
   fullness, picc in position
   ct reviewed--multiple lung nodules, b/l small-mod effusions
   Assessment and Plan
   44 yo F w/
          Metastatic sq cell ca
          Hypercalcemia
          Constipation
     * Mild hyponatremia
     * Anxiety
     * Arf
     * anemia
   Agree with plan to continue vigorous IV NS.  We have been using lasix
   to avoid further edema and third spacing.  Would decrease IVF rate,
   noting pleural effusions on imaging.  Will follow i/os closelt and can
   likely stop lasix if repeat ca continues to decline.  Suspect that her
   hyperca is allr elated to metastatic ds giuvwen ct aopearance with
   multiple [**Last Name (un) 9087**] nodules and lad. We have also discussed possible sarcoid
   diagnosis given hilsr LAD but in light of lung nodules seems much less
   liekly. Will pursue bone scan for additional staging eval. Onc fellow
   to eval and is now stable for tranfer to onc fllor for fuyrther
   management paln. Meanwhile her hip pain will be further evaluated with
   pelvic CT.  However she would seem to merit a reevaluation of the
   status of her squamous cell skin cancer (?PET-CT?), We contint o follow
   additoanl recs oer onc/Drs [**Last Name (STitle) **] and [**Name5 (PTitle) **]. Will icnrease bowel reg
   given sig constipation.  She responds well to ativan for anxiety and
   morphine for bony hip pain.  Her cr is slowly improving from admit,
   with good urine ouitpt.  We avoid nephrotoxin and reanl team continues
   to follow.  The patient is stable enough to continue her IV fluids on
   the floor and we
ll call her out to an onc floor.  Would hold on iron
   sup until constipation is better controlled, with hct stable vbut
   anemic. Inceptive spirometer.
   Additional per rsident note.
   ICU Care
   Nutrition:   POs
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2175-10-8**] 08:36 PM
   18 Gauge - [**2175-10-8**] 08:37 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor, sw consult
   Total time spent: 45 minutes

2175-10-11 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - double lumen PICC line placed morning of [**10-10**]
   - still very anxious ; responds well to ativan
   - Bone Scan today by Nuclear Medicine
   - Dr [**Last Name (STitle) **] and Dr [**Last Name (STitle) **] stopped by in evening.  Dr. [**Last Name (STitle) **] told her it is
   most likely metastatic cancer.  He thinks we need a tissue biopsy,
   possibly just from medial leg (which he thinks is likely the same as
   what is in the lungs)
   - was called out to OMED ---> but we kept her b/c of her very elevated
   BPs and HRs
   - intensified bowel regimen --> patient had multiple BM
   - Patient has been having increasing tachycardia all night, up to 130s,
   appears to be in sinus rhythm -- tried fluid boluses, tried
   anti-anxiety (ativan), which have not improved it ; consider also PE,
   though not strong enough suspicion to start heparin (cannot give her
   contrast for scan); consider also SVT? though looks like sinus rhythm
   - also has been having increasing BPs, consistently around 190/100-->
   gave IV hydralazine acutely; PO hydral did not seem to have much
   effect, so started labetalol low-dose (200mg [**Hospital1 **]) which helped both HR
   and BP... though the concern was not to mask whatever was causing the
   tachycardia
   - pt does have dropping O2 sat to low 90s when sleeping; patient
   snoring so concern for sleep apnea
   - DCed lasix
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2175-10-10**] 08:00 AM
   Morphine Sulfate - [**2175-10-10**] 03:00 PM
   Furosemide (Lasix) - [**2175-10-10**] 08:00 PM
   Hydralazine - [**2175-10-10**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-10-11**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.4
   HR: 103 (96 - 132) bpm
   BP: 139/79(94) {126/73(85) - 186/105(118)} mmHg
   RR: 21 (17 - 29) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 91.6 kg (admission): 79.1 kg
             Total In:
                                                                 10,737 mL
                                                                  1,483 mL
   PO:
                                                                  1,600 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  9,137 mL
                                                                  1,243 mL
   Blood products:
   Total out:
                                                                  7,850 mL
                                                                  1,490 mL
   Urine:
                                                                  7,850 mL
                                                                  1,490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,887 mL
                                                                     -7 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///20/
   Physical Examination
   General: Alert, oriented, anxious
   HEENT: Sclera anicteric, dry mucus membranes, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Patient is breathing comfortably.  Decreased breath sounds at
   the bases, L>R.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  Linear well-healed scar in her LLQ.  moderately distended
   with hyperactive bowel sounds.  Nontender abdomen
   GU: has foley
   Ext: warm, well perfused, 2+ pulses, has increased nonpitting LE and
   upper extremity edema, left lower extremity greater than her right.
   Left mid medial thigh has a large area where a baseball-sized mass of
   tissue was removed with well-appearing scar tissue over it.
   Back: Mild tenderness to palpation over the iliac crests bilaterally.
   Labs / Radiology
   217 K/uL
   9.7 g/dL
   104 mg/dL
   1.9 mg/dL
   20 mEq/L
   4.1 mEq/L
   31 mg/dL
   109 mEq/L
   137 mEq/L
   29.3 %
   13.7 K/uL
        [image002.jpg]
                            [**2175-10-8**]  07:40 AM
                            [**2175-10-8**]  01:11 PM
                            [**2175-10-8**]  05:57 PM
                            [**2175-10-9**]  12:07 AM
                            [**2175-10-9**]  05:05 AM
                            [**2175-10-9**]  11:32 AM
                            [**2175-10-9**]  05:43 PM
                            [**2175-10-10**]  10:47 AM
                            [**2175-10-10**]  05:45 PM
                            [**2175-10-11**]  03:39 AM
   WBC
   10.4
   12.2
   17.4
   13.7
   Hct
   29.4
   29.2
   30.1
   29.3
   Plt
   [**Telephone/Fax (3) 9404**]17
   Cr
   2.7
   2.7
   2.5
   2.4
   2.2
   2.4
   2.2
   2.0
   1.9
   1.9
   Glucose
   92
   87
   84
   100
   106
   112
   173
   139
   104
   104
   Other labs:
   Ca: 11.8,  Mg: 2.0,   Phos: 3.1
   TSH: 2.2
   Imaging:
   CT Pelvis:  IMPRESSION: 1. New lytic lesions throughout the pelvis and
   new subcutaneous left lower quadrant and left inguinal nodules, all
   indicative of marked progression of metastatic disease.
   2. Small amount of free fluid in the pelvis.
   3. Diverticulosis
   CT Chest: IMPRESSION: 1. Marked progression of extensive bilateral
   pulmonary nodules with large hilar masses inseparable from mediastinal
   lymphadenopathy as well as numerous ossesous lytic lesions. Overall,
   these findings are new since [**Month (only) 1646**] and concerning for rapid progression
   of neoplastic disease in a person with known history of previous
   malignancy.
   2. Expansile lesion posteriorly at the T10 veterbral body with
   associated narrowing of the central canal
   3. New bilateral pleural effusions.
   4. Inadequately characterized hepatic hypodensities.
   5. Cholelithiasis.
   Bone Scan: IMPRESSION: 1. Known T10 vertebral body and pelvic osseous
   metastases do not demonstrate significant tracer avidity. 2. Marked
   right upper thoracic anterior chest wall uptake does not have an
   obvious CT correlate, though early rib/chest wall metastasis is a
   diagnostic consideration. 3. Bilateral femoral shaft uptake may reflect
   hypertrophic pulmonary osteoarthropathy. 4. Difficult to exclude a
   skull metastasis in the setting of mild focal uptake.
   Assessment and Plan
   44 yo female with metaststic squamous cell carcinoma of the left mid
   medial thigh s/p excision in [**7-6**] admitted with hypercalcemia of 19.8.
   # Hypercalcemia:
   Ca decreased to 11.8 today with continued IV hydration at a lower rate,
   she continues to have brisk urine output, even with the discontinuation
   of the lasix.  CT scan concerning for progression of malignancy with
   innumerable pulmonary nodules, hilar masses, bony lesions in the iliac
   bones bilaterally and left inguinal enlarging LAD, which is the most
   likely cause of her hypercalcemia.
   - Decreased IVF rate to 150cc/hr since her calcium has been improving
   and she is LOS up about 9L of fluid, also discontinued lasix as her
   urine output has remained brisk and calcium is down to 11.8.
   - Renal function improving with IVF and decreasing calcium
   - Bone Scan: shows known bony mets, but also with concern for possible
   mets to the chest wall, possible skull mets, and femoral hypertrophic
   pulmonary osteoarthropathy.
   - Drs. [**Last Name (STitle) **] and [**Name5 (PTitle) **] [**Name5 (PTitle) **] came by to see the patient, and spoke with
   her about her metastatic disease, patient will go to the oncology floor
   when she leaves the ICU for further management
   - constipation related to hypercalcemia has resolved with aggressive
   bowel regimen, will continue bowel regimen as patient also continues to
   receive narcotics
   - Mildly elevated Alk Phos from her bony mets
   - Continue pamidronate
   - f/u  PTHrP , Vit D, ACE level
   - Renal and Endocrine following, appreciate recs
   .
   # Acute renal failure:
   Cr improved to 1.9 today from 3.2 on admission (her baseline is
   0.6-0.7), most likely due to her hypercalemia, renal function is
   improving with decreased calcium and continued hydration
   - continued volume repletion and management of hypercalcemia
   - Trend Cr
   - Renally dose medications and avoid nephrotoxins
No NSAIDS
   # Hypertension/Tachycardia: initially thought to be due to anxiety/pain
   and dehydration, which may still be playing a role, however ativan has
   not really helped, and patient has been aggressively hydrated with
   IVF
s.  In discussion with her husband, it sounds like she was
   hypertensive prior to admission (SBP
s in the 150
s) but not on any
   medications, which may be exacerbated by the stress of the hospital.
   - EKG showed Sinus Tachycardia
 no response to ativan, morhpine, IVF
   - Started labetalol for BP and HR control with some effect, BP may also
   improve with decrease in total body volume
   # Right posterior hip pain:  The patient has focal iliac crest pain on
   exam, has lytic lesions on CT scan
   - Morphine for pain control, small doses have currently been working
   well but will transition to po oxycodone liquid as patient has
   difficulty swallowing pills
   # Chronic iron-deficiency anemia:
   The patient's Hct is 29 (from 34.2) after lots of fluids, and has
   remained stable.  She is a Jehovah's Witness and therefore would not
   want tranfusion of any type of blood products.
   # Metastastic squamous cell carcinoma:  Hypercalcemia and imaging are
   very concerning for worsening metastatic disease,  per Dr. [**Last Name (STitle) **] will
   consult IR for biopsy of one of the lesions in her iliac bones
   - patient for transfer to OMED when she leaves ICU for further
   management
   ICU Care
   Nutrition: Regular Diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2175-10-8**] 08:36 PM
   PICC Line - [**2175-10-10**] 11:27 AM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Patient and Husband
   [**Name (NI) 156**] status: Full code
   Disposition: Call out to OMED with improved BP and HR control